US03950427
(E)-4-(2-Chloro-4-biphenylyl)-3-pentene-2-one by method F
208.0 Gm (1.85 mols) of potassium tert.-butylate were added all at once to a solution of 284.0 gm (1.23 mols) of 4-acetyl-2-chloro-biphenyl and 292.0 gm (1.85 mols) of ethyl (E)-3-ethoxy-crotonate in 1.8 liters of anhydrous dimethylformamide. The temperature rose at once from +20°C to +38°C, and the mixture turned red. The mixture was stirred for 1 hour at 32° to 35°C, then 200 ml of concentrated hydrochloric acid were added dropwise to the warm batch, and the resulting mixture was heated at a temperature of 90°-100°C for 30 minutes. After the carbon dioxide evolution had ceased, the cooled mixture was poured into 2 liters of ice water and extracted exhaustively with ether. The combined ether extracts were washed with water, with a saturated aqueous sodium bicarbonate solution and again with water, dried over sodium sulfate and evaporated. The oily residue was distilled in a moderate vacuum (b.p. 170°-175° C at 0.3 mm Hg) and subsequently recrystallized from cyclohexane and petroleum ether. 273.6 Gm (82% of theory) of pale yellow crystals, m.p. 66°-67°C, were obtained.

reactant | 4-acetyl-2-chloro-biphenyl | 1.23 mols, 284.0 gm | C(C)(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)Cl | C14H11ClO
reactant | ethyl (E)-3-ethoxy-crotonate | 1.85 mols, 292.0 gm | C(C)O/C(=C/C(=O)OCC)/C | C8H14O3
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dimethylformamide | 1.8 liters | CN(C=O)C | C3H7NO
product | (E)-4-(2-Chloro-4-biphenylyl)-3-pentene-2-one | ClC1=C(C=CC(=C1)/C(=C/C(C)=O)/C)C1=CC=CC=C1 | C17H15ClO
